US07531482B2
Preparation of 5-methyl-6-methylsulfanylpyridine-3-ol
A slurry of 5-amino-3-methyl-2-methylsulfanylpyridine (20.3 g, 132 mmol) in 20 wt percent aqueous sulfuric acid (170 mL) was cooled to −2° C. via an ice/salt water bath. A solution of sodium nitrite (9.1 g, 132 mmol) in water (30 mL) was added dropwise, maintaining the internal temperature at or below 1° C. After stirring for an additional 20 minutes, the reaction mixture was cautiously poured in portions into a rapidly stirred, hot (100° C.) solution of 20 wt. percent aqueous sulfuric acid (330 mL). Stirring was continued for 10 minutes, then the mixture was allowed to cool to room temperature. The reaction was washed with methylene chloride (3×200 mL), then the pH of aqueous layer was raised to 4-5 (in the cold) with 50 wt percent aq. sodium hydroxide (ca. 160 mL). A precipitate consisting of both a white solid and a reddish brown oil had formed. Additional 20 wt percent aq. sodium hydroxide was added, raising the pH to 6 and resulting in more precipitate/oil formation. The mixture was cooled and filtered, collecting the white solid, while the majority of colored oil remained in the mother liquor. The collected solid was taken up in 5 percent aq. sodium hydroxide (300 mL) and washed with ether (2×100 mL) to remove impurities and unreacted starting material. The aqueous portion was then treated with activated charcoal, filtered through celite, and the pH adjusted to 5-6 with glacial acetic acid. The precipitate was collected by filtration and dried in vacuo affording an off-white powder, 14 g, 90 mmol, 68 percent yield.

reactant | 5-amino-3-methyl-2-methylsulfanylpyridine | 132 mmol, 20.3 g | NC=1C=C(C(=NC1)SC)C | C7H10N2S
reactant | sulfuric acid | 170 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 132 mmol, 9.1 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 330 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
product | 5-methyl-6-methylsulfanylpyridine-3-ol | 68 percent yield | CC=1C=C(C=NC1SC)O | C7H9NOS
